data/core_train_final.csv
"CC(C)[CH2:10].[Cl:20][Cl:21]>>CC(C)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[CH:10]C.[Br:20][Br:21]>>C[CH:10](C)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[CH:10]C1=CC=CC=C1.[Cl:20][Cl:21]>>C[CH:10](C1=CC=CC=C1)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[O:12][C:11]1=[CH:10]C=CC=C1.[O:22][C:21]2=[CH:20]C=CC=C2>>[O:12]=[C:11]3[CH:10]([CH:20]4[C:21](C=CC=C4)=[O:22])C=CC=C3 12-12,11;11,10-12,11;10,11-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,recombine
"[CH3:1][C:2]1=[CH:3][CH2:4][CH:5]2[CH2:10][CH:9]1[C:6]2([CH3:7])[CH3:8].[O:11][O:12][O:13]>>[CH3:1][C:2]1[CH:9]2[CH2:10][CH:5]([C:6]2([CH3:7])[CH3:8])[CH2:4][CH:3]1[O:11][O:12][O:13] 2,3-3,11; 11-11,3; 2,3-2",Room Temperature,Propagation,addition
"[CH2:5]=[CH:4][C:2](=[CH2:1])[Cl:3].[O-:9][S:7](=[O:6])(=[O:10])[O:8]>>[CH2:5][CH:4]=[C:2]([CH2:1][O:8][S:7](=[O:10])(=[O:6])[O-:9])[Cl:3] 8-8,1; 2,1-1,8; 2,1-2,4; 4,5-2,4; 4,5-5",Room Temperature,Propagation,addition
"[H:13][O:12][C:11]1([CH:4]2[CH2:5][CH:6]([C:2]2([CH3:1])[CH3:3])[CH2:7][CH:8]1[O:9][O:10])[CH3:14].[H:15][O:16][O:17]>>[H:13][O:12][C:11]1([CH:4]2[CH2:5][CH:6]([C:2]2([CH3:1])[CH3:3])[CH2:7][CH:8]1[O:9][O:10][H:15])[CH3:14].[O:16][O:17] 15,16-16; 15,16-10,15; 10-10,15",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:3])([H:4])[H:5].[Cl:6]>>[H:3][C:2]([H:4])[H:1].[H:5][Cl:6] 6-6,5; 2,5-6,5; 2,5-2",Room Temperature,Propagation,abstraction
"[CH2:20]C1=C(C=CC=C1)Br.[Br:10]>>C1=CC(=C(C=C1)Br)[CH2:20][Br:10] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]C(CCC)Cl.[Cl:10]>>[H:20][Cl:10].CCCC([CH2:21])Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]1([CH:12]2[CH2:13][CH:4]1[C:5]3([CH:10]([CH2:11]2)[O:9][O:8][O:7]3)[CH3:6])[CH3:3]>>[CH3:1][C:2]1([CH:12]2[CH2:13][CH:4]1[C:5]([CH:10]([CH2:11]2)[O:9])([CH3:6])[O:7][O:8])[CH3:3] 8,9-8; 8,9-9",Room Temperature,Initiation,homolyze
"C[C:20](C)C.[Cl:10][Cl:11]>>C[C:20](C)(C)[Cl:10].[Cl:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[CH2:20]C1=CC=C(C=C1)[N+](=O)[O-].[Br:10]>>C1=CC(=CC=C1[CH2:20][Br:10])[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:4][C:2]([CH3:1])([CH3:3])[CH3:5].[O:6]=[S:7](=[O:9])[Cl:8]>>[H:4][O:6][S:7](=[O:9])[Cl:8].[CH3:1][C:2]([CH3:3])[CH3:5] 2,4-2; 7,9-7; 7,9-4,9; 2,4-4,9",Room Temperature,Propagation,abstraction
"[N:10]=O.[O:20]I>>[N:10](=O)[O:20]I 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10](C)C(=N)N.[CH2:20]=[CH:21]C(=O)O>>C[C:10](C)([CH2:20][CH:21]C(=O)O)C(=N)N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH:6]1=[CH:5][C:4]2=[CH:9][C:10]3=[C:11]([CH:12]=[CH:13][CH:14]=[CH:15]3)[C:2](=[O:1])[C:3]2[CH:8]=[CH:7]1>>[CH:6]1=[CH:5][C:4]2=[CH:9][C:10]3=[C:11]([CH:12]=[CH:13][CH:14]=[CH:15]3)[C:2](=[C:3]2[CH:8]=[CH:7]1)[O:1] 3-2,3; 1,2-2,3; 1,2-1",Room Temperature,Propagation,resonance
"CCOC(=O)C(C)(C[C:10]1CCC2C[CH:20]1[C:21]2(C)C)CC(C)(C)C#N>>CCOC(=O)C(C)(C[C:10]1=[CH:20]CC(CC1)[C:21](C)C)CC(C)(C)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(CC(C1=CC=CC=C1)CC(C2=CC=CC=C2)C[CH:10]C3=CC=CC=C3)(C(OCC)=O)C.CC(CC(C4=CC=CC=C4)CC(C5=CC=CC=C5)C[CH:20]C6=CC=CC=C6)(C(OCC)=O)C>>CC(CC(C1=CC=CC=C1)CC(C2=CC=CC=C2)C[CH:10]([CH:20](C3=CC=CC=C3)CC(C4=CC=CC=C4)CC(C5=CC=CC=C5)CC(C)(C(OCC)=O)C)C6=CC=CC=C6)(C(OCC)=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"COC1=[C:10]C(CC[C:20]#[C:21]C(C)(C)OCC2=CC=CC=C2)=C([O])C(OC)=C1OC>>COC3=[C:10](/[C:20](CC4)=[C:21]/C(C)(C)OCC5=CC=CC=C5)C4=C([O])C(OC)=C3OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"O=C(NCC([O-])=O)C(NC(CCC([NH3+])C([O-])=O)=O)C[S:21][H:20].CCC(CC)O[O:10]>>[H:20][O:10]OC(CC)CC.O=C(NCC([O-])=O)C(NC(CCC([NH3+])C([O-])=O)=O)C[S:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(CC(C[CH:10]N1CCCC1=O)N2CCCC2=O)C#N.[CH2:20]=[CH:21]N1CCCC1=O>>CC(C)(CC(C[CH:10]([CH2:20][CH:21]N1CCCC1=O)N2CCCC2=O)N3CCCC3=O)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(CC(CC(C[CH:10]C1=CC=CC=C1)C2=CC=CC=C2)C3=CC=CC=C3)C(OCC)=O.CC(C)(CC(CC([CH:21]([H:20])[CH:22]C4=CC=CC=C4)C5=CC=CC=C5)C6=CC=CC=C6)C(OCC)=O>>CC(C)(CC(CC(C[CH:10]([H:20])C7=CC=CC=C7)C8=CC=CC=C8)C9=CC=CC=C9)C(OCC)=O.CC(C)(CC(CC([CH:21]=[CH:22]C%10=CC=CC=C%10)C%11=CC=CC=C%11)C%12=CC=CC=C%12)C(OCC)=O 10-10,20; 20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CC(C#N)(C)CC(CC(C[CH:20]N1CCCC1=O)N2CCCC2=O)N3CCCC3=O.CC(C#N)(C)CC(CC([CH:11]([CH:12]N4CCCC4=O)[H:10])N5CCCC5=O)N6CCCC6=O>>CC(C#N)(C)CC(CC(C[CH:20](N7CCCC7=O)[H:10])N8CCCC8=O)N9CCCC9=O.CC(C#N)(C)CC(CC(/[CH:11]=[CH:12]/N%10CCCC%10=O)N%11CCCC%11=O)N%12CCCC%12=O 20-20,10;10,11-10,20;10,11-11,12;12-11,12",Room Temperature,Termination,abstraction
